US09085552B1
2. Preparation of 3-(3-chloro-4-methyl-4,5-dihydro-1H-pyrazol-1-yl)pyridine (2)
Crude 4-methyl-1-(pyridin-3-yl)pyrazolidin-3-one (35.2 g, ˜82.4 mmol) was introduced into a 250 mL three-neck round bottom flask equipped with a reflux condenser. Acetonitrile (100 mL) was then added. To this yellow mixture was added phosphoryl chloride (11.56 mL, 124 mmol) slowly. The yellow slurry was stirred at 75° C. for 1 hour. The mixture was cooled down and concentrated to remove volatiles. The brown residue was carefully quenched with water (120 mL), and basified with NaOH (50 wt % in water) to pH 10 while keeping the temperature below 60° C. The mixture was then extracted with ethyl acetate (3×150 mL). The combined organic extracts were washed with water (80 mL) and concentrated under reduced pressure to afford the crude product as dark purple oil. The crude product was purified by flash column chromatography using 0-70% ethyl acetate/hexanes as eluent to provide the title compound as a brown oil (12.3 g, 76% over two steps): 1H NMR (400 MHz, CDCl3) δ 8.27 (dd, J=2.8, 0.7 Hz, 1H), 8.15 (dd, J=4.6, 1.4 Hz, 1H), 7.38 (ddd, J=8.4, 2.9, 1.4 Hz, 1H), 7.18 (ddd, J=8.4, 4.7, 0.7 Hz, 1H), 4.17-4.06 (m, 1H), 3.47 (t, J=8.9 Hz, 1H), 3.44-3.34 (m, 1H), 1.37 (d, J=6.8 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 148.17, 142.07, 141.10, 134.74, 123.39, 119.92, 56.62, 43.62, 16.16; EIMS m/z 195 ([M]+).

reactant | 4-methyl-1-(pyridin-3-yl)pyrazolidin-3-one | ˜82.4 mmol, 35.2 g | CC1C(NN(C1)C=1C=NC=CC1)=O | C9H11N3O
reactant | phosphoryl chloride | 124 mmol, 11.56 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-(3-chloro-4-methyl-4,5-dihydro-1H-pyrazol-1-yl)pyridine | 12.3 g, 76% | ClC1=NN(CC1C)C=1C=NC=CC1 | C9H10ClN3
